US09382226B2
Step A. 1,6-naphthyridine-8-carbaldehyde
A solution of ethyl (2Z)-3-(1,6-naphthyridin-8-yl)prop-2-enoate (30 g) in dichloromethane (500 mL) and methanol (125 mL) was cooled to −78° C. and reacted with ozone until the color of the reaction mixture became light blue (˜3 h). The reaction was purged with nitrogen to remove the residual ozone. Methyl sulfide (60 mL) was then added, and the reaction was allowed to warm to room temperature and then concentrated. The resulting residue was dissolved in dichloromethane (300 mL), washed with water (100 mL) and saturated aqueous sodium bicarbonate (100 mL) and dried over sodium sulfate. The solvent was removed and product was slurried in heptane/ethyl acetate mixture (5:1). The solid was then filtered and dried under reduced pressure to provide the title compound: LCMS m/z 158.97 [M+H]+; 1H NMR (500 MHz, CDCl3) δ 11.39 (s, 1 H), 9.09 (s, 1 H), 9.13 (m, 1 H), 9.07 (s, 1 H), 8.43 (d, J=8.3 Hz, 1 H), 7.78 (dd, J=8.7, 4.8 Hz, 1 H), 7.63 (dd, J=8.2, 4.2 Hz, 1 H), 7.34 (dd, J=8.7, 2.2 Hz, 1 H), 7.07 (m, 1 H), 3.55-3.53 (m, 1 H), 0.62-0.61 (m, 4 H).

reactant | ethyl (2Z)-3-(1,6-naphthyridin-8-yl)prop-2-enoate | 30 g | N1=CC=CC2=CN=CC(=C12)\C=C/C(=O)OCC | C13H12N2O2
reactant | ozone | O=[O+][O-] | O3
solvent | dichloromethane | 500 mL | ClCCl | CH2Cl2
solvent | methanol | 125 mL | CO | CH4O
product | 1,6-naphthyridine-8-carbaldehyde | N1=CC=CC2=CN=CC(=C12)C=O | C9H6N2O
